US09303033B2
4-(Cyclopropylamino)-2-(methylthio)pyrazolo[1,5-a][1,3,5]triazine-8-carbaldehyde (1.0 eq, 3.00 g, 12.03 mmol) was suspended in ethanol (40 ml). Hydantoin (1.5 eq, 1.81 g, 18.08 mmol) and piperidine (1.5 eq, 1.78 ml, 18.01 mmol) were added. The mixture was heated at reflux under vigorous magnetic stirring for 3 hours. After cooling of the reaction mixture, the precipitate was filtered, washed with ethanol, then with a mixture of ethanol and water (1:1). After drying in vacuo, (Z)-5-((4-(cyclopropylamino)-2-(methylthio)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione was isolated as a yellow solid (3.80 g, 95%). LCMS (ES): >85% pure, m/z 332 [M+H]+.

reactant | 4-(Cyclopropylamino)-2-(methylthio)pyrazolo[1,5-a][1,3,5]triazine-8-carbaldehyde | 12.03 mmol, 3.00 g, 1.0 eq | C1(CC1)NC1=NC(=NC=2N1N=CC2C=O)SC | C10H11N5OS
reactant | Hydantoin | 18.08 mmol, 1.81 g, 1.5 eq | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | piperidine | 18.01 mmol, 1.78 ml, 1.5 eq | N1CCCCC1 | C5H11N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | (Z)-5-((4-(cyclopropylamino)-2-(methylthio)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)SC | C13H13N7O2S
